US07943774B2
1-[4-(4-Ethynyl-1,3-thiazol-2-yl)piperidin-1-yl]-2-[5-methyl-3-(trifluoromethyl)-1H-pyrazol-1-yl]ethanone (I-86)
Under argon, 2-(1-{[5-methyl-3-(trifluoromethyl)-1H-pyrazol-1-yl]acetyl}piperidin-4-yl)-1,3-thiazol-4-carbaldehyde (200 mg) is dissolved in methanol (5 ml) and potassium carbonate (215 mg) and dimethyl 1-diazo-2-oxopropylphosphonate (199 mg) are added. The mixture is stirred at 40° C. After aqueous work-up, the mixture is extracted with ethyl acetate and the extracts are dried with sodium sulphate and concentrated under reduced pressure. The residue is purified chromatographically. This gives 1-[4-(4-ethynyl-1,3-thiazol-2-yl)piperidin-1-yl]-2-[5-methyl-3-(trifluoromethyl)-1H-pyrazol-1-yl]ethanone (67 mg).

reactant | 2-(1-{[5-methyl-3-(trifluoromethyl)-1H-pyrazol-1-yl]acetyl}piperidin-4-yl)-1,3-thiazol-4-carbaldehyde | 200 mg | CC1=CC(=NN1CC(=O)N1CCC(CC1)C=1SC=C(N1)C=O)C(F)(F)F | C16H17F3N4O2S
reactant | potassium carbonate | 215 mg | C([O-])([O-])=O.[K+].[K+]
reactant | dimethyl 1-diazo-2-oxopropylphosphonate | 199 mg | [N+](=[N-])=C(C(C)=O)P(OC)(OC)=O | C5H9N2O4P
solvent | methanol | 5 ml | CO | CH4O
product | 1-[4-(4-Ethynyl-1,3-thiazol-2-yl)piperidin-1-yl]-2-[5-methyl-3-(trifluoromethyl)-1H-pyrazol-1-yl]ethanone | C(#C)C=1N=C(SC1)C1CCN(CC1)C(CN1N=C(C=C1C)C(F)(F)F)=O | C17H17F3N4OS
